US09108938B2
N-[2-(4-Chloro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethyl]-2,3-dimethyl-benzamide
From 2,3-dimethylbenzoic acid and 2-(4-chloro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine.

reactant | 2,3-dimethylbenzoic acid | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | 2-(4-chloro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine | ClC1=CC=C(C=C1)C(CN)N1CCC(CC1)(F)F | C13H17ClF2N2
product | N-[2-(4-Chloro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethyl]-2,3-dimethyl-benzamide | ClC1=CC=C(C=C1)C(CNC(C1=C(C(=CC=C1)C)C)=O)N1CCC(CC1)(F)F | C22H25ClF2N2O
